US04794183
dl-(trans-2-Hexadecyloxymethyltetrahydrofuran-3-yl) 2-(trimethylammonio)ethyl phosphate
A solution containing 1.275 g of dl-trans-2-hexadecyloxymethyl-3-hydroxytetrahydrofuran (prepared as described in Preparation 14), 1.060 g of 2-chloro-2-oxo-1,3,2-dioxaphospholane and 1.30 ml of diisopropylethylamine in 20 ml of 1,2-dichloroethane was heated, with stirring, at 80° C. for 16 hours. The mixture was then cooled, and the solvent was removed by distillation under reduced pressure. The residue was then dissolved in 15 ml of acetonitrile. 3.0 g of trimethylamine gas were passed through and dissolved in the solution, and the resulting reaction mixture was heated in a sealed tube at 80° C. for 18 hours. It was then cooled, and the reaction mixture was evaporated to dryness. The residue was subjected to column chromatography using 50 g of silica gel. The crude substance obtained from the fraction eluted with a 60:35:5 by volume mixture of methylene chloride, methanol and water was further purified by chromatography through two silica gel Lobar B columns. The fraction eluted with the same solvent system as described above gave 1.257 g of the title compound as a white powder, melting at 213°-223° C.

reactant | trans-2-hexadecyloxymethyl-3-hydroxytetrahydrofuran | C(CCCCCCCCCCCCCCC)OC[C@@H]1OCC[C@H]1O | C21H42O3
reactant | 2-chloro-2-oxo-1,3,2-dioxaphospholane | 1.060 g | ClP1(OCCO1)=O | C2H4ClO3P
reactant | diisopropylethylamine | 1.30 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | (trans-2-Hexadecyloxymethyltetrahydrofuran-3-yl) 2-(trimethylammonio)ethyl phosphate | 1.257 g | P(=O)(O[C@H]1[C@@H](OCC1)COCCCCCCCCCCCCCCCC)(OCC[N+](C)(C)C)[O-] | C26H54NO6P
